US06048880
1-Chloro-3-(2-fluorophenyl)-5,6-dihydro-4H-cyclopenta(c)thiophene-4-one (step 1)
To a stirred solution of 1,3-dichloro-5,6-dihydro-4H-cyclopenta(c)thiophene-4-one (250 mg, 1.21 mmol) in DME (7.5 mL) was added 2-fluorobenzeneboronic acid (177 mg, 1.27 mmol), saturated aqueous NaHCO3 solution (2.5 mL) and bis(triphenylphosphine)palladium(II)chloride (100 mg, 0.14 mmol) at room temperature under nitrogen. The mixture was heated at reflux temperature for 8 hours. The whole was extracted with ethyl acetate (50 mL×2), and the combined organic layers were washed with brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by flash chromatography eluting with hexane-ethyl acetate (10:1) to provide the subtitle compound (118 mg, 37% yield).

reactant | 1,3-dichloro-5,6-dihydro-4H-cyclopenta(c)thiophene-4-one | 1.21 mmol, 250 mg | ClC=1SC(=C2C1CCC2=O)Cl | C7H4Cl2OS
reactant | 2-fluorobenzeneboronic acid | 1.27 mmol, 177 mg | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | NaHCO3 | 2.5 mL | C(=O)(O)[O-].[Na+]
solvent | DME | 7.5 mL | COCCOC | C4H10O2
catalyst | bis(triphenylphosphine)palladium(II)chloride | 0.14 mmol, 100 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 1-Chloro-3-(2-fluorophenyl)-5,6-dihydro-4H-cyclopenta(c)thiophene-4-one | 118 mg, 37% yield | ClC=1SC(=C2C1CCC2=O)C2=C(C=CC=C2)F | C13H8ClFOS
